US06713471B1
General procedure for stannane coupling with aryl bromide: Degassed DMF (25 mL) was added to a mixture of tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (316 mg, 0.768 mmol), PPh3 (40.4 mg, 0.154 mmol), CuBr (22 mg, 0.20 mmol) and Pd(PPh3)2Cl2 (55 mg, 0.0768 mmol) via cannula, at room temperature under N2 blanket. The reaction mixture was stirred at room temperature for 5 min and then 2,6-dichlorophenyl trimethylstannane (357 mg, 1.15 mmol) was added as a solution in degassed DMF (2.5 mL) and the reaction mixture was heated at 140° C. After 10 min, the solution began to turn black, and a second portion (178 mg, 0.575 mmol) was added after 1 hour, followed by a final portion (178 mg, 0.575 mmol) an hour later. Heating resumed for another 30 min, then the reaction mixture was cooled to room temperature and diluted with ethylacetate/water (20 mL/20 mL). Organic layer was separated, dried over sodium sulfate an concentrated to dryness under reduced pressure to a dark oil. This residue was purified by flash chromatography eluting with 10% EtOAc/Hexanes to give tert-butyl(6bR,10aS)-5-(2,4-dichlorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (185 mg, 50%). 1H NMR (CDCl3, 300 MHz) δ1.46 (s, 9H), 1.82-2.00 (m, 2H), 2.93-3.33 (m, 5H), 3.40-3.51 (m, 4H), 3.52-3.75 (m, 1H), 6.71 (s, 1H), 6.75 (s, 1H), 7.12 (t, 1H, J=7.9 Hz), 7.33 (d, 2H, J=7.9 Hz) ppm.

reactant | tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 0.768 mmol, 316 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2S
reactant | PPh3 | 0.154 mmol, 40.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,6-dichlorophenyl trimethylstannane | 1.15 mmol, 357 mg | ClC1=C(C(=CC=C1)Cl)[Sn](C)(C)C
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | ethylacetate water | 20 mL | C(C)OC(C)=O.O
catalyst | Pd(PPh3)2Cl2 | 0.0768 mmol, 55 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl(6bR,10aS)-5-(2,4-dichlorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 185 mg, 50% | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C24H26Cl2N2O2S
